US07645757B2
5.1. 1-(4-chlorophenyl)-6-(tetrahydro-2H-pyran-2-yloxy)hex-2-yn-1-ol
61.5 ml of 1.6M solution of n-butyllithium (98,4 mmol) in hexane are added dropwise to a solution, cooled to −78° C. under argon, of 13.25 g (78.8 mmol) of 2-(pent-4-yn-1-yloxy)tetrahydro-2H-pyran in 130 ml of anhydrous tetrahydrofuran. Stirring is continued at −78° C. for 1 hour and then a solution of 12.18 g (86.6 mmol) of 4-chlorobenzaldehyde in 40 ml of tetrahydrofuran is added dropwise. Stirring is continued at −78° C. for 2 hours and then the solution is reheated to 0° C. and is poured onto 300 ml of a saturated aqueous ammonium chloride solution. Extraction is carried out with 450 ml of ethyl acetate. The organic phase is washed with 50 ml of water and then with 50 ml of a saturated aqueous sodium chloride solution. The organic phase is dried over sodium sulphate and evaporated. The residue is purified by chromatography on silica gel, elution being carried out with a 70/30 mixture of n-hexane and of ethyl acetate, to produce 16.64 g (53.88 mmol) of product in the form of a colourless oil.

reactant | n-butyllithium | 98,4 mmol | C(CCC)[Li]
reactant | 2-(pent-4-yn-1-yloxy)tetrahydro-2H-pyran | 78.8 mmol, 13.25 g | C(CCC#C)OC1OCCCC1 | C10H16O2
reactant | 4-chlorobenzaldehyde | 86.6 mmol, 12.18 g | ClC1=CC=C(C=O)C=C1 | C7H5ClO
reactant | ammonium chloride | 300 ml | [Cl-].[NH4+]
solvent | hexane | CCCCCC | C6H14
solvent | tetrahydrofuran | 130 ml | O1CCCC1 | C4H8O
solvent | tetrahydrofuran | 40 ml | O1CCCC1 | C4H8O
product | 1-(4-chlorophenyl)-6-(tetrahydro-2H-pyran-2-yloxy)hex-2-yn-1-ol | 53.88 mmol, 16.64 g | ClC1=CC=C(C=C1)C(C#CCCCOC1OCCCC1)O | C17H21ClO3
